US08048902B2
Synthesis of [4′-(4-Amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]acetic acid
[4′-(4-tert-Butoxycarbonylamino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-acetic acid (1.0 mmol) was treated with trifluoroacetic acid (5 mL) for 1 hour. Work-up provided the title compound. Mass spec. data (M+H)=309.

reactant | [4′-(4-tert-Butoxycarbonylamino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-acetic acid | 1.0 mmol | C(C)(C)(C)OC(=O)NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)CC(=O)O)C | C23H24N2O5
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [4′-(4-Amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]acetic acid | NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)CC(=O)O)C | C18H16N2O3
